US06562811B1
To a stirred solution of tert-butyl 3-(2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)-1-piperidine-carboxylate (0.260 g, 0.425 mmol) in 1,4-dioxane (2 mL) was added 4 N HCl in dioxane (2 mL). The mixture was stirred at room temperature overnight, and diluted with ethyl acetate. The resulting precipitate was collected by filtration, washed with ethanol, and dried under reduced pressure to give 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-5-(3-piperidinyl)-1,8-naphthyridin-2(1H)-one hydrochloride as a yellow solid (0.146 g, 80%).

reactant | tert-butyl 3-(2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)-1-piperidine-carboxylate | 0.425 mmol, 0.260 g | C1(CC1)COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C1=NC=2NC(C=CC2C(=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C36H41N3O6
reactant | HCl | 4 N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-5-(3-piperidinyl)-1,8-naphthyridin-2(1H)-one hydrochloride | 0.146 g, 80% | Cl.C1(CC1)COC1=C(C(=CC=C1)O)C1=CC(=C2C=CC(NC2=N1)=O)C1CNCCC1 | InChI=1S/C23H25N3O3.ClH/c27-19-4-1-5-20(29-13-14-6-7-14)22(19)18-11-17(15-3-2-10-24-12-15)16-8-9-21(28)26-23(16)25-18;/h1,4-5,8-9,11,14-15,24,27H,2-3,6-7,10,12-13H2,(H,25,26,28);1H
